US03962438
10-Trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-3-one-1(2H)-thione (53.6 g., 0.152 mol.) was added to a stirred solution of 8.95 g. (0.160 mol.) of potassium hydroxide in 1680 ml. of acetone and 720 ml. of water. After all the solid had dissolved and a clear yellow solution formed, 22.8 g. (10 ml., 0.160 mol.) of methyl iodide was added in one portion. The reaction mixture was stirred at 25° for 18 hours, diluted with 1000 ml. of water and chilled in an ice-bath for several hours. The resulting light yellow solid was collected by filtration and washed with water to give 1-methylmercapto-10-trifluoromethyl-3H-pyrimido[5,4,3-kl]phenothiazine-3-one, m.p. 229°-231° (ethanol).

reactant | 10-Trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-3-one-1(2H)-thione | 0.152 mol, 53.6 g | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=S)=O)(F)F | C15H7F3N2OS2
reactant | potassium hydroxide | 0.160 mol | [OH-].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | methyl iodide | 0.160 mol, 10 ml | CI | CH3I
solvent | water | O | H2O
product | 1-methylmercapto-10-trifluoromethyl-3H-pyrimido[5,4,3-kl]phenothiazine-3-one | CSC1=NC(C=2C=CC=C3SC=4C=CC(=CC4N1C23)C(F)(F)F)=O | C16H9F3N2OS2
